US07687664B2
t-Butyl N-(2-bromobenzyl)carbamate
15.0 g of 2-Bromobenzylamine hydrochloride was dissolved in 100 ml of tetrahydrofuran, and a solution of 13 g of t-butyl dicarbonate in tetrahydrofuran (25 ml) was added thereto. The mixture was stirred at room temperature for 1 hour, and then the solvent was evaporated. The residue was dissolved in ethyl acetate, and washed successively with 1N hydrochloric acid and brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated, to give 16.0 g of the title compound.

reactant | 2-Bromobenzylamine hydrochloride | 15.0 g | Cl.BrC1=C(CN)C=CC=C1
reactant | t-butyl dicarbonate | 13 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | t-Butyl N-(2-bromobenzyl)carbamate | 16.0 g | BrC1=C(CNC(OC(C)(C)C)=O)C=CC=C1 | C12H16BrNO2
